US05362742
5% of palladium-carbon (including 50% water, 40 mg) was added to a solution of 3-(4-acetoxy-3,5-dimethylcinnamoylamino)-4-(2-chlorophenyl)-6,8-dimethylquinoline (200 mg) in tetrahydrofuran-methanol (1:1, 5 ml). The solution was catalytically reduced at room temperature under atmospheric pressure. After the reduction, the catalyst was removed and the filtrate was concentrated to give crystals of 3-[3-(4-acetoxy-3,5-dimethylphenyl) propionylamino]-4-(2-chlorophenyl)-6,8-dimethylquinoline. The crystals were recrystallized from ethanol to afford colorless needles (146 mg, 73.0%)

reactant | 3-(4-acetoxy-3,5-dimethylcinnamoylamino)-4-(2-chlorophenyl)-6,8-dimethylquinoline | 200 mg | C(C)(=O)OC1=C(C=C(C=CC(=O)NC=2C=NC3=C(C=C(C=C3C2C2=C(C=CC=C2)Cl)C)C)C=C1C)C | C30H27ClN2O3
solvent | tetrahydrofuran-methanol | 5 ml | O1C(CCC1)CO | C5H10O2
catalyst | palladium-carbon | 40 mg | [C].[Pd]
product | 3-[3-(4-acetoxy-3,5-dimethylphenyl) propionylamino]-4-(2-chlorophenyl)-6,8-dimethylquinoline | C(C)(=O)OC1=C(C=C(C=C1C)CCC(=O)NC=1C=NC2=C(C=C(C=C2C1C1=C(C=CC=C1)Cl)C)C)C | C30H29ClN2O3
